US07276502B2
[4-(5-Chloro-thiazol-2-yl)-pyrimidin-2-yl]-(3,4,5-trimethoxy-phenyl)-amine
To a solution of [2-(5-Chloro-thiazol-2-yl)-vinyl]-dimethyl-amine (450 mg) in isopropanol (10 ml) was added N-(3,4,5 trimethoxyphenyl)guanidinium nitrate (560 mg) (prepared using a procedure similar to that described in WO9719065) and sodium hydroxide (80 mg). The resulting mixture was heated to reflux for 6 hours, then cooled to ambient and concentrated. The mixture was diluted with water (20 ml) and extracted with ethylacetate (20 ml), the organic phase was removed, washed with water, brine, dried (magnesium sulfate) and concentrated. The residue was purified by flash chromatography (30% ethylacetate/petroleum ether) to afford the sub-titled compound as an orange solid (260 mg, 35%); IR (solid) 1570, 1508, 1453, 1422 cm−1; 1H NMR (400 Mhz, CDClS) δ 3.8 (3H, s), 3.95 (6H, s), 7.15 (1H, s), 7.50 (1H, m), 7.75 (1H, s), 8.6 (1H, d); MS (ES+) 379.2 (M+1), (ES−) 377.2 (M−1).

reactant | [2-(5-Chloro-thiazol-2-yl)-vinyl]-dimethyl-amine | 450 mg | ClC1=CN=C(S1)C=CN(C)C | C7H9ClN2S
reactant | N-(3,4,5 trimethoxyphenyl)guanidinium nitrate | 560 mg | [N+](=O)([O-])[O-].COC=1C=C(C=C(C1OC)OC)NC(=[NH2+])N
reactant | sodium hydroxide | 80 mg | [OH-].[Na+]
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | [4-(5-Chloro-thiazol-2-yl)-pyrimidin-2-yl]-(3,4,5-trimethoxy-phenyl)-amine | 260 mg, 35% | ClC1=CN=C(S1)C1=NC(=NC=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C16H15ClN4O3S
